US08202885B2
25 mL of 2-(trimethylsilyloxy)-1,3-cyclohexadiene and 13 mL of α-acetoxyacrylonitrile were mixed and heated at 150° C. in a closed vessel for 22 h. The obtained dark orange viscous oil was dissolved in 200 mL of MeOH. After dropwise addition of a solution of 2.2 g of sodium methoxide in 150 mL of MeOH the reaction mixture was stirred for 3 h at rt, poured into ice/water and extracted with DCM. The organic phases were concentrated in vacuo and the crude residue was purified by CC with EtOAc-Hept (1:2) to yield 7.9 g of rac-(1R*,4R*)-bicyclo[2.2.2]octane-2,5-dione.

reactant | 2-(trimethylsilyloxy)-1,3-cyclohexadiene | 25 mL | C[Si](OC1=CCCC=C1)(C)C | C9H16OSi
reactant | α-acetoxyacrylonitrile | 13 mL | C(C)(=O)OC(C#N)=C | C5H5NO2
reactant | sodium methoxide | 2.2 g | C[O-].[Na+]
solvent | MeOH | 200 mL | CO | CH4O
solvent | MeOH | 150 mL | CO | CH4O
product | rac-(1R*,4R*)-bicyclo[2.2.2]octane-2,5-dione | 7.9 g | C12C(CC(C(C1)=O)CC2)=O | C8H10O2
